US08106045B2
A solution of chloroacetyl chloride (24.3g, 215 mmol) in dichloromethane (100 ml) was dropped into the ice-cooled solution of (1S)-1-(4-bromophenyl)-2-((1R)-1-phenylethylamino)ethanol (62.6 g, 215 mmol) and triethylamine (21.8 g, 215 mmol) in dichloromethane (600 ml) over 30 minutes and stirred for one hour at the same temperature. Resulting solution was washed with 0.5 M hydrochloric acid, saturated sodium hydrogen carbonate, brine and dried over anhydrous magnesium sulfate. The solvents were removed under reduced pressure and potassium hydroxide (85%, 16.1 g, 244 mmol) was added to a solution of resulting pale brown oil in isopropyl alcohol (600 ml) and stirred for 16 hour. The solvent was removed in vacuo and the residue was partitioned between water and ethyl acetate. The organic layer was washed with 0.5 M hydrochloric acid, saturated sodium hydrogen carbonate, brine and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure furnished (6S)-6-(4-bromophenyl)-4-((1R)-1-phenyethyl)morpholin-3-one (70.2 g) as a brown oil.

reactant | chloroacetyl chloride | 215 mmol, 24.3g | ClCC(=O)Cl | C2H2Cl2O
reactant | (1S)-1-(4-bromophenyl)-2-((1R)-1-phenylethylamino)ethanol | 215 mmol, 62.6 g | BrC1=CC=C(C=C1)[C@@H](CN[C@H](C)C1=CC=CC=C1)O | C16H18BrNO
reactant | triethylamine | 215 mmol, 21.8 g | C(C)N(CC)CC | C6H15N
reactant | potassium hydroxide | 244 mmol, 16.1 g | [OH-].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | isopropyl alcohol | 600 ml | C(C)(C)O | C3H8O
product | (6S)-6-(4-bromophenyl)-4-((1R)-1-phenyethyl)morpholin-3-one | 70.2 g | BrC1=CC=C(C=C1)[C@@H]1OCC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C18H18BrNO2
